US04985419
Thionyl chloride (12.7 cc) is added in the course of 5 minutes, with stirring at a temperature of 4° C., to a suspension of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride (9.77 g) in methylene chloride (250 cc), and stirring is continued for 90 minutes at a temperature of 20° C. The clear yellow solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and dried to constant weight under reduced pressure (5 mm Hg; 0.67 kPa) at 50° C. to give 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride (10.2 g) in the form of a yellow paste.

reactant | Thionyl chloride | 12.7 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | 9.77 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
product | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride | 10.2 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)Cl | InChI=1S/C20H21ClN2OS.ClH/c1-14(13-22-10-4-5-11-22)23-16-6-2-3-7-18(16)25-19-9-8-15(20(21)24)12-17(19)23;/h2-3,6-9,12,14H,4-5,10-11,13H2,1H3;1H
